US07615562B2
4-(4-Benzo[b]thiophen-2-yl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester
The title compound was prepared analogous to Method A, starting from 2,4-dichloro-pyrimidine, benzo[b]thiophen-2-boronic acid and ethyl-4-amino-1-piperidinecarboxylate.

reactant | 2,4-dichloro-pyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | benzo[b]thiophen-2-boronic acid | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | ethyl-4-amino-1-piperidinecarboxylate | C(C)OC(=O)N1CCC(CC1)N | C8H16N2O2
product | 4-(4-Benzo[b]thiophen-2-yl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)NC1=NC=CC(=N1)C1=CC2=C(S1)C=CC=C2 | C20H22N4O2S
